US06562807B2
(R)-3-(4-{[tert-Butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}benzoylamino)-2-hydroxypropionic acid methyl ester was dissolved in ethyl acetate (10 mL) and dry hydrogen chloride in ethyl acetate (3 M, 10 mL) was added. The mixture was stirred at room temperature for 2 hours and concentrated in vacuo. The residue was suspended in ethyl acetate (15 mL) and concentrated. This was repeated twice. The residue was then suspended in ethyl acetate (10 mL) and placed at 5° C. overnight. The precipitate was filtered and washed with ice-cooled ethyl acetate and dried in vacuo to afford 0.62 g of (R)-3-{4-[(4-cyclohexylphenylamino)-methyl]benzoylamino}-2-hydroxypropionic acid methyl ester.

reactant | (R)-3-(4-{[tert-Butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}benzoylamino)-2-hydroxypropionic acid methyl ester | COC([C@@H](CNC(C1=CC=C(C=C1)CN(C1=CC=C(C=C1)C1CCCCC1)C(=O)OC(C)(C)C)=O)O)=O | C29H38N2O6
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 M, 10 mL | C(C)(=O)OCC | C4H8O2
product | (R)-3-{4-[(4-cyclohexylphenylamino)-methyl]benzoylamino}-2-hydroxypropionic acid methyl ester | 0.62 g | COC([C@@H](CNC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C1CCCCC1)=O)O)=O | C24H30N2O4
